US06472386B1
Synthesis of Ethyl 2-(3,4,5-Trimethoxybenzamido)thiazole-4-carboxylate
3,4,5-Trimethoxybenzoic acid (3.69 g), ethyl 2-aminothiazole-4-carboxylate (3.0 g) and 4-(dimethylamino)-pyridine (702 mg) were dissolved in dichloromethane (80 mL), and to the solution was added 1-ethyl-3-(3-dimethyl-aminopropyl)carbodiimide hydrochloride (water-soluble carbodiimide hydrochloride) (3.34 g). The mixture was stirred overnight at room temperature and then concentrated under reduced pressure, and the residue was dissolved in ethyl acetate. The solution was successively washed with 2 M hydrochloric acid, a saturated aqueous solution of sodium hydrogencarbonate, water and saturated brine, and dried over anhydrous sodium sulfate. After concentrating the organic layer under reduced pressure, the residue was purified by column chromatography on silica gel (chloroform:methanol=30:1) to obtain the title compound.

reactant | 3,4,5-Trimethoxybenzoic acid | 3.69 g | COC=1C=C(C(=O)O)C=C(C1OC)OC | C10H12O5
reactant | ethyl 2-aminothiazole-4-carboxylate | 3.0 g | NC=1SC=C(N1)C(=O)OCC | C6H8N2O2S
catalyst | 4-(dimethylamino)-pyridine | 702 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
product | Ethyl 2-(3,4,5-Trimethoxybenzamido)thiazole-4-carboxylate | COC=1C=C(C(=O)NC=2SC=C(N2)C(=O)OCC)C=C(C1OC)OC | C16H18N2O6S
